US08609669B2
2-(Cyclohexylidene)malononitrile
Acetic acid was added at room temperature to a stirring mixture of malononitrile (2.65 mL, 42.1 mmol), cyclohexanone (5.03 g, 51.3 mmol) and NH4OAc (6.49 g, 84 mmol) in toluene (200 mL). The resulting mixture was heated at reflux under a Dean-Stark trap for 2 hours (6 mL water collected), then cooled to room temperature. The mixture was concentrated under vacuum, and the residue was distilled under vacuum (air bath 110-130° C./˜10 mm) to provide the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 1.61-1.74 (m, 2H), 1.81 (ddt, J=6.5, 6.2, 5.8 Hz, 4H), 2.66 (dd, J=6.5, 6.2 Hz, 4H).

reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | malononitrile | 42.1 mmol, 2.65 mL | C(CC#N)#N | C3H2N2
reactant | cyclohexanone | 51.3 mmol, 5.03 g | C1(CCCCC1)=O | C6H10O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Cyclohexylidene)malononitrile | C1(CCCCC1)=C(C#N)C#N | C9H10N2
